US05108485
Preparation of 1-Ethyl-2-methyl-4,5-benzimidazoledicarboxylic acid
A mixture of dimethyl 1-ethyl-2-methyl-4,5-benzimidazoledicarboxylate (5.30 g, 19.2 mmol), methanol and 5N sodium hydroxide (30 mL, I50 mmol) is stirred for 4 hours at 100° C., cooled, acidified with hydrochloric acid and filtered to give the title product as a lemon yellow powder (4.07 g, 85.5%), identified by 1HNMR spectral analysis.

reactant | dimethyl 1-ethyl-2-methyl-4,5-benzimidazoledicarboxylate | 19.2 mmol, 5.30 g | C(C)N1C(=NC=2C1=CC=C(C2C(=O)OC)C(=O)OC)C | C14H16N2O4
reactant | sodium hydroxide | 5N, 30 mL | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | CO | CH4O
product | 1-Ethyl-2-methyl-4,5-benzimidazoledicarboxylic acid | 4.07 g, 85.5% | C(C)N1C(=NC=2C1=CC=C(C2C(=O)O)C(=O)O)C | C12H12N2O4
